US05162327
1,3-Dimethyl-5-(3,5-dichloro-(4-(2-(1,1,2,2,3,3-hexafluoropropoxy)-1,1,2-trifluoroethoxy))-phenylcarbamoyl)barbituric acid, ammonium salt (Example 5)
5.0 g (8.2 mmol) of 1,3-dimethyl-5-(3,5-dichloro-(4-(2-(1,1,2,2,3,3-hexafluoropropoxy)-1,1,2-trifluoroethoxy))phenylcarbamoyl)-barbituric acid were suspended in 50 ml of absolute acetonitrile. Ammonia was passed in at room temperature for 10 minutes and the mixture was stirred at 50° C. for 10 minutes. The precipitate which had separated out was filtered off with suction, washed with ether and dried.

reactant | 1,3-dimethyl-5-(3,5-dichloro-(4-(2-(1,1,2,2,3,3-hexafluoropropoxy)-1,1,2-trifluoroethoxy))phenylcarbamoyl)-barbituric acid | 8.2 mmol, 5.0 g | CN1C(=O)N(C(=O)C(C1=O)C(NC1=CC(=C(C(=C1)Cl)OC(C(F)OC(C(C(F)F)(F)F)(F)F)(F)F)Cl)=O)C | C18H12Cl2F9N3O6
reactant | Ammonia | N | H3N
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | 1,3-Dimethyl-5-(3,5-dichloro-(4-(2-(1,1,2,2,3,3-hexafluoropropoxy)-1,1,2-trifluoroethoxy))-phenylcarbamoyl)barbituric acid, ammonium salt | [NH4+].CN1C(=O)N(C(=O)C(C1=O)C(NC1=CC(=C(C(=C1)Cl)OC(C(F)OC(C(C(F)F)(F)F)(F)F)(F)F)Cl)=O)C | InChI=1S/C18H12Cl2F9N3O6.H3N/c1-31-11(34)8(12(35)32(2)15(31)36)10(33)30-5-3-6(19)9(7(20)4-5)37-17(26,27)14(23)38-18(28,29)16(24,25)13(21)22;/h3-4,8,13-14H,1-2H3,(H,30,33);1H3/p+1
